US06169107A
In 50 ml of methanol was dissolved 0.83 g (2.58 mmol) of 5-benzyloxy-1-methyl-2-indoloylguanidine obtained in Example 32. While stirring at room temperature, 0.30 g of 10% palladium/carbon was added to the solution in a nitrogen flow and catalytic hydrogenation was then conducted at ambient temperature under normal pressure. After completion of the reaction, the catalyst was filtered off and the filtrate was then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 5-hydroxy-1-methyl-2-indoloylguanidine. The 5-hydroxy-1-methyl-2-indoloylguanidine was further treated with hydrogen chloride/methanol to give 0.37 g (68.6%) of 5-hydroxy-1-methyl-2-indoloylguanidine hydrochloride.

reactant | 5-hydroxy-1-methyl-2-indoloylguanidine | OC=1C=C2C=C(NC2=CC1)C(=O)N=C(NC)N | C11H12N4O2
reactant | hydrogen chloride methanol | Cl.CO
product | 5-hydroxy-1-methyl-2-indoloylguanidine hydrochloride | 0.37 g, 68.6% | Cl.OC=1C=C2C=C(NC2=CC1)C(=O)N=C(NC)N | InChI=1S/C11H12N4O2.ClH/c1-13-11(12)15-10(17)9-5-6-4-7(16)2-3-8(6)14-9;/h2-5,14,16H,1H3,(H3,12,13,15,17);1H
